US05258530
20 g (135 mmol) of phthalic anhydride was heated at 80° C. for 5 hours in the same manner as in Example 1 except that palladium acetate was omitted. As a result, a BPDA was not formed.

reactant | phthalic anhydride | 135 mmol, 20 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | BPDA | C1=CC2=C(C=C1C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O6
